US04988664
Into a 250 ml round-bottom flask equipped with magnetic stirrer, condenser, heating mantle and nitrogen blanket, were placed 10.0 g of 1-aminoanthraquinone, 80 ml of nitrobenzene and 6.5 g of n-heptanoyl chloride. The solution was refluxed for 2.5 hours and cooled. Crude product was precipitated with methanol, filtered and dried. Chromatography on silica gel with toluene eluent afforded yellow 1-n-heptanoylaminoanthraquinone, melting at 133° C.

reactant | 1-aminoanthraquinone | 10.0 g | NC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H9NO2
reactant | n-heptanoyl chloride | 6.5 g | C(CCCCCC)(=O)Cl | C7H13ClO
solvent | nitrobenzene | 80 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 1-n-heptanoylaminoanthraquinone | C(CCCCCC)(=O)NC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C21H21NO3
